US07645789B2
A mixture of 2-bromo-5-fluoro-4-nitroaniline (9.0 g, 38.4 mmol), 3,3-dimethyl-but-1-yne (9.95 g, 121 mmol), CuI (0.5 g 2.6 mmol), Pd(PPh3)2Cl2 (3.4 g, 4.86 mmol) and Et3N (14 mL, 6.9 mmol) in toluene (100 mL) and water (50 mL) was heated at 70° C. for 4 h. The aqueous layer was separated and the organic layer was washed with water (80 mL×2) and brine (100 mL), dried over Na2SO4 and concentrated under reduced pressure to dryness. The residue was recrystallized with ether to afford 2-(3,3-dimethylbut-1-ynyl)-5-fluoro-4-nitroaniline (4.2 g, 46%). 1H-NMR (400 MHz, DMSO-d6) δ 7.84 (d, J=8.4 Hz, 1H), 6.84 (brs, 2H), 6.54 (d, J=14.4 Hz, 1H), 1.29 (s, 9H).

reactant | 2-bromo-5-fluoro-4-nitroaniline | 38.4 mmol, 9.0 g | BrC1=C(N)C=C(C(=C1)[N+](=O)[O-])F | C6H4BrFN2O2
reactant | 3,3-dimethyl-but-1-yne | 121 mmol, 9.95 g | CC(C#C)(C)C | C6H10
reactant | Et3N | 6.9 mmol, 14 mL | CCN(CC)CC | C6H15N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | CuI | 2.6 mmol, 0.5 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 4.86 mmol, 3.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3,3-dimethylbut-1-ynyl)-5-fluoro-4-nitroaniline | 4.2 g, 46% | CC(C#CC1=C(N)C=C(C(=C1)[N+](=O)[O-])F)(C)C | C12H13FN2O2
